US08614327B2
N-(3-amino-4-cyclohexyl-phenyl)acetamide (696 mg, 3.0 mmol) was added dropwise to a mixture of conc. H2SO4 (3 mL, 56.28 mmol) and H2O (17 mL). This reaction mixture was cooled to 0° C. and a solution of NaNO2 (229 mg, 3.32 mmol) in H2O (2 mL) was added. The reaction mixture was stirred for 5 minutes at 0° C. and then 1 g of urea was added, followed by the addition of 10 mL of 1:2 H2SO4: H2O. The reaction mixture was then refluxed for 1 hour, cooled to room temperature and extracted with EtOAc. The aqueous layer was basified with solid NaOH and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, filtered and concentrated to obtain 5-amino-2-cyclohexylphenol (426 mg, 74%), which was used without further purification.

reactant | N-(3-amino-4-cyclohexyl-phenyl)acetamide | 3.0 mmol, 696 mg | NC=1C=C(C=CC1C1CCCCC1)NC(C)=O | C14H20N2O
reactant | H2SO4 | 56.28 mmol, 3 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 3.32 mmol, 229 mg | N(=O)[O-].[Na+]
reactant | urea | 1 g | NC(=O)N | CH4N2O
reactant | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 2 mL | O | H2O
solvent | H2O | 17 mL | O | H2O
product | 5-amino-2-cyclohexylphenol | 426 mg, 74% | NC=1C=CC(=C(C1)O)C1CCCCC1 | C12H17NO
